US04442108
5.0 g (0.0113 mole) of N-[2-(3,4-diisopropoxyphenyl)-ethyl]-3,4-diethoxyphenylacetamide, 100 ml benzene, and 2.3 g (0.015 mole) of phosphorus oxychloride were introduced successively into a 250 ml 3-necked flask after being passed through an atmosphere of nitrogen. The mixture was heated under reflux with stirring over a period of 2 hours, 70 ml of solvent removed by distillation, 30 ml of ethanol, 1 ml of 12 N hydrochloric acid added and the bulk of solvent removed by distillation under reduced pressure. The residue obtained was washed several times with ether, taken up again in solution in 15 ml of ethanol, and 120 ml of ether added slowly. The slowly precipitated product was dried to give 2.93 g of 1-(3'4'-diethoxybenzyl)-6,7-diisopropoxy-3,4-dihydroisoquinoline hydrochloride. Yield=57%, m.p. 187° C.

reactant | N-[2-(3,4-diisopropoxyphenyl)-ethyl]-3,4-diethoxyphenylacetamide | 0.0113 mole, 5.0 g | C(C)(C)OC=1C=C(C=CC1OC(C)C)CCNC(CC1=CC(=C(C=C1)OCC)OCC)=O | C26H37NO5
reactant | phosphorus oxychloride | 0.015 mole, 2.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(3'4'-diethoxybenzyl)-6,7-diisopropoxy-3,4-dihydroisoquinoline hydrochloride | 2.93 g, Yield=57% | Cl.C(C)OC=1C=C(CC2=NCCC3=CC(=C(C=C23)OC(C)C)OC(C)C)C=CC1OCC | InChI=1S/C26H35NO4.ClH/c1-7-28-23-10-9-19(14-24(23)29-8-2)13-22-21-16-26(31-18(5)6)25(30-17(3)4)15-20(21)11-12-27-22;/h9-10,14-18H,7-8,11-13H2,1-6H3;1H
